US09233979B2
N-(2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)ethyl)propan-2-amine (554 mg, 0.913 mmol) and RuPhos pre-catalyst (66.5 mg, 0.091 mmol) were charged in a 2 dram vial, evacuated and backfilled with nitrogen and taken in toluene (4 mL) before the addition of a solution of 2M NaOtBu in THF (1.15 mL, 2.3 mmol). The reaction mixture was heated at 55° C. for 1 hour before it was diluted with EtOAc and washed with water, brine, dried with sodium sulfate and concentrated. Purification of the residue by flash column (0-50% EtOAc-hexanes) gave 7-chloro-3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine. MS ESI calc'd. for C30H27ClN4 [M+H]+ 480. found 480.

reactant | N-(2-(6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)ethyl)propan-2-amine | 0.913 mmol, 554 mg | ClC1=CC2=C(C(=N1)CCNC(C)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C30H28ClIN4
reactant | NaOtBu | 2M | CC(C)(C)[O-].[Na+]
reactant | THF | 2.3 mmol, 1.15 mL | C1CCOC1 | C4H8O
catalyst | RuPhos | 0.091 mmol, 66.5 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-chloro-3-isopropyl-1-trityl-1,3,4,5-tetrahydropyrazolo[3,4,5-de][1,6]naphthyridine | ClC1=NC=2CCN(C=3C2C(=C1)N(N3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C(C)C | C30H27ClN4
